US07449466B2
Production Example 30 was repeated except that 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine was replaced with 1-(4-benzyloxy-3-fluorophenyl)-4-octylpiperazine (365 mg), to provided crude 2-fluoro-4-(4-octylpiperazin-1-yl)phenol (252 mg).

reactant | 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCCC1)Cl | C26H35ClN2O
reactant | 1-(4-benzyloxy-3-fluorophenyl)-4-octylpiperazine | 365 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCCCCCC)F | C25H35FN2O
product | 2-fluoro-4-(4-octylpiperazin-1-yl)phenol | 252 mg | FC1=C(C=CC(=C1)N1CCN(CC1)CCCCCCCC)O | C18H29FN2O
